Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm tired."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo M former ___ current ___
student who presented via EMS after his neighbor reportedly
called ___ after he had been knocking on his/her door for 2
hours; patient noted to have green/black stained lips/teeth and
stating from ___ food'. In the ED, psychiatry was
consulted for evaluation of disorganized behavior.

Patient arrived to the unit in a wheelchair and appeared to be
very drowsy. Given level of sedation and possible fall risk,
patient was wheeled directly to his room. He stated he was tired
and kept his eyes closed. He fell asleep throughout the
interview. He would briefly wake up to loud voice and then
immediately go back to sleep. He denied any suicidal/homicidal
ideation/plans/intent. When asked if he was willing to alert
staff if he felt unsafe, he said "yes." He spontaneously asked 
if
he was staying the night and then fell asleep. He was 
cooperative
with physical/neurological exam and did not appear to be
responding to internal stimuli. 
 
Past Medical History:
PAST PSYCHIATRIC HISTORY: 
Per Dr. ___ ___ note:
Hospitalizations: denied
Current treaters and treatment: denied
Medication and ECT trials: denied
Self-injury/SA: denied but at one point was slapping himself
Harm to others: denied but endorsed practicing Akeido and Tai 
Chi
Access to weapons: denied, stated he had a 'gun' lighter

PAST MEDICAL HISTORY: 
Per Dr. ___ ___ note:
Denied 

ALLERGIES: 
Per Dr. ___ ___ note:
NKDA, possible anaphylaxis (tongue swelling, shortness
of breath) to kiwi, pineapple, mango
 
Social History:
SUBSTANCE ABUSE HISTORY:
Per Dr. ___ ___ note:
Alcohol use: denied
Recreational/Illicit: cocaine, marijuana ('I don't like because
it makes me a zombie'), unclear on last use, possibly yesterday
Tobacco: ___ PPD
Other: also endorsed using 'onion' and 'jalapeno'

FORENSIC HISTORY: 
Per Dr. ___ ___ note:
Pt stated he had a speeding ticket that he paid
off

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: 
Per Dr. ___ ___ note:
'Sorry, ___, I come from a ___ world
country... No one cares about psycho problems, people just punch
you.'
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
 VS: BP= 96/60, HR= 64, RR= 16, SaO2= 99%  on RA

 * General: NAD. Well-nourished, well-developed. Appears stated
age. Very drowsy. 
 * HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
 * Lungs: Clear to auscultation bilaterally. No crackles or
wheezes.
 * CV: Regular rate and rhythm. No murmurs/rubs/gallops. 2+ 
pedal
pulses.
 * Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
 * Extremities: No clubbing, cyanosis, or edema.
 * Skin: Warm and dry. L eyebrow laceration. No lesions or 
rashes
elsewhere. 

 Neurological:
   *Cranial Nerves:
        I: Not tested.
        II: Pupils equally round and reactive to light
 bilaterally. Visual fields are full to confrontation.
       III, IV, VI: Extraocular movements intact bilaterally
 without nystagmus.
       V, VII: Facial strength and sensation intact and
symmetric.
       VIII: Hearing intact to voice.
       IX, X: Palatal elevation symmetrical.
       XI: Sternocleidomastoid and trapezius normal bilaterally.
       XII: Tongue midline without fasciculations.
   *Motor- Normal bulk and tone bilaterally. No abnormal
movements, no tremor. Strength full power ___ throughout. 
   *Sensation: Intact to light touch.
   *Gait: Deferred. 
   *Romberg: Deferred.

 NEUROPSYCHIATRIC EXAMINATION:

 * Appearance: NAD. Thin Asian man. Appears stated age. Somewhat
disheveled, wearing hospital gown. L eyebrow laceration. Drowsy
appearing, eyes closed, breathing comfortably, briefly wakes up
to loud voice.  
 * Behavior: Very drowsy, falls asleep throughout interview,
briefly wakes up to loud voice, only able/willing to provide
brief one-word responses to most questions. 
 * Orientation: Oriented to self, location ___, ___ floor),
and date (___).
 * Mood: "Tired."
 * Affect: Restricted and congruent to stated mood. 
 * Thought Process: Limited assessment, brief one-answer
responses to closed ended questions. 
 * Thought Content: Denies current suicidal/homicidal thoughts,
plans, and actions. Does not appear to be responding to internal
stimuli. 
 * Insight/Judgment: Impaired.
 * Speech: Mumbling frequently. Low volume. No pressured speech. 


 COGNITION:
 * Memory: unable to assess given patient 
inability/unwillingness
secondary to sedation 
 * Abstraction: "
 * Proverb: "
 * Calculation: "
 * Fund of knowledge: "
 * Attention span: "
 * Language: Fluent ___ speaker with accent. No apparent
paraphrasic errors.
 
Pertinent Results:
___ LUE US:
IMPRESSION: 
1. No evidence of deep vein thrombosis in the left upper 
extremity. 
2. Complete occlusion of the left basilic vein beginning at the 
elbow and 
extending into the forearm. Of note, the basilic vein is a 
superficial 
vessel. 

Urine toxicology:
___ 04:31PM URINE  bnzodzpn-POS* barbitrt-NEG opiates-NEG 
cocaine-POS* amphetmn-NEG oxycodn-NEG mthdone-NEG

BMP:
___ 09:15AM   GLUCOSE-79 UREA N-21* CREAT-1.2 SODIUM-139 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-23 ANION GAP-18

CBC:
___ 09:15AM   WBC-10.3* RBC-4.33* HGB-13.5* HCT-39.4* 
MCV-91 MCH-31.2 MCHC-34.3 RDW-12.4 RDWSD-41.6
___ 09:15AM   NEUTS-72.3* ___ MONOS-5.5 EOS-1.4 
BASOS-0.6 IM ___ AbsNeut-7.43* AbsLymp-2.05 AbsMono-0.57 
AbsEos-0.14 AbsBaso-0.06
___ 09:15AM   PLT COUNT-___rief Hospital Course:

1.) Legal: ___
2.) Safety:
Patient remained on standard 15 minute checks and unit 
restricted throughout her admission. 

3.) Psychiatric: 
#Brief Psychotic Episode – At admission, Mr ___ demonstrated 
profound thought and behavioral disorganization and reported 
grandiose delusions that ___ could hurt him as well as 
paranoia.   He endorsed a recent history of poor sleep and a 
significant recent functional decline leading up to his 
withdrawal from the ___ 2 months prior to 
presentation.   While in the ___ ED, Mr ___ was found to have 
a urine toxicology screen positive for both cocaine and 
benzodiazepines though notably the timing of benzodiazepine 
administration and urine toxicology sample obtainment could lead 
to confounding.  While in the ___ ED, he received Ativan, (2 
mg IM/2 mg PO) Risperidone (1 mg), Haldol (5 mg) and Cogentin (1 
mg) with partial improvement in his mental status.  Following 
admission to ___ 4, he continued to be offered Risperdal 1 
mg BID, which he accepted intermittently (usually 1x/day) until 
___ when he began taking Risperdal 1 mg PO BID reliably.  
With this, Mr ___ mental status improved further and at the 
time of discharge from ___, he had a linear, logical and 
sequential thought process with no loosening of associations and 
no continued delusional, paranoid or grandiose thought process. 

4.) Medical
# Superficial Venous Thrombosis – On ___, Mr ___ complained 
of a mass in his left upper extremity that caused numbness when 
palpated.  On US of his left upper extremity, Mr ___ was found 
to have an occluding clot in his basilic vein that was not near 
the site of deep venous structures.    This clot was believed 
secondary to IV placement early in hospital course.  There was 
no indication for anticoagulation during hospitalization and Mr 
___ was treated with warm compresses and the extent of clot 
burden was monitored while on the unit.  At the time of 
discharge, Mr ___ was instructed to seek urgent medical care if 
he noted the clot extending.

# Dental Pain -  On ___, Mr ___ began complaining of 
dental pain at the site of a previous dental procedure (lower 
left molar).  His oropharnyx was examined and there were no 
gross abnormalities, but there was the presence of a previous 
metal implant at the site of pain.  Mr ___ pain was managed 
with Tylenol, orabase and cold packs and at the time of 
discharge he reported a plan to follow up with outpatient dental 
care. 

PSYCHOSOCIAL:

#)GROUPS/MILIEU:  He participated actively in the  unit’s 
milieu, with active engagement in the group/therapy 
opportunities.  In individual supportive psychotherapy sessions, 
he was provided psychoeducation about his diagnosis , treatment 
and  the importance of aftercare follow-through.

#)COLLATERAL CONTACTS:  The team was in contact with the 
patient’s school and received collateral report faxed from 
patient’s neighbor who had called the police on the day of 
presentation.  Given privacy considerations and no threats 
voiced towards the neighbor at any time during Mr ___ 
presentation or hospitalization course, Mr ___ neighbor was 
not contacted during his hospitalization or at the time of 
discharge.

#)FAMILY INVOLVEMENT: Mr ___ family was not able to be reached 
in ___ during this hospitalization.

#)INTERVENTIONS: 
-Medications: Initiated Risperidone 1 mg BID, Risperidone 0.5 mg 
daily PRN anxiety, During hospitalization, PRN risperidone had 
been up to three times daily, but was rarely used.  These 
medications were continued at the time of discharge.
Psychotherapeutic Interventions: Individual, group, and milieu 
therapy was provided.  Mr ___ demonstrated good engagement with 
the milieu and treatment team.
-Coordination of aftercare: The treatment team established 
aftercare follow-up with new psychiatric and medical providers 
at the time of discharge.

INFORMEDCONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
increasing risperidone as well as risks and benefits of possible 
alternatives, including not taking the medication, with Mr ___. 
We discussed his right to decide whether to take this medication 
as well as the importance of his actively participating in the 
treatment and discussing any questions about medications with 
the treatment team, and answered his questions. He appeared able 
to understand and consented to begin the medication.

#RISK ASSESSMENT  

#PROGNOSIS Fair 

Mr ___ has a fair prognosis.  Mr ___ has few static risk factors 
that place him at chronically elevated risk of 
self-harm/suicide.  At the time of presentation to the ___ ED, 
he had no known psychiatric history, no history of self-harm, 
and no history of harm towards others.  Mr ___ primary static 
risk factor at that the time of presentation is a history of 
substance use disorder.  Mr ___ had a number of modifiable risk 
factors that were addressed during this hospitalization 
including active thought and behavioral disorganization, poor 
sleep, and ongoing substance use.  These symptoms were targeted 
through a combination of psychotherapeutic and 
psychopharmacologic interventions during hospitalization and at 
the time of discharge Mr ___ reported resolution of all of these 
symptoms as well as demonstrated significant improvement in 
thought and behavioral organization.  He also noted a commitment 
to no longer engage in substance use (alcohol or drugs) at the 
time of discharge and was provided with further support group 
resources to help him maintain sobriety.  Mr ___ continues to 
have modifiable risk factors of recent poor school performance 
and poor social support in the ___ noting few close 
friends and no family.  Mr ___ also has ___ protective factors 
including history of academic achievement, musical talent, 
supportive family, financial resources, stable housing, 
engagement with care and commitment to aftercare follow up.

 
Medications on Admission:
None
 
Discharge Medications:
1. RisperiDONE 1 mg PO BID 
RX *risperidone 1 mg 1 tablet(s) by mouth twice a day Disp #*28 
Tablet Refills:*0
2. RisperiDONE 0.5 mg PO DAILY:PRN anxiety, agitation 
RX *risperidone 0.5 mg 1 tablet(s) by mouth daily Disp #*14 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Brief Psychotic Disorder

 
Discharge Condition:
Stable 

*VS:  BP: 108/65   HR: 72  temp:  97.6  resp: 16  O2 sat: 100% 
RA    

Neurological:
    *station and gait: stable, narrow-based
    *tone and strength: moves all 4 extremities symmetrically
    Ext: left upper extremity demonstrates hard cord-like mass 
that is incompressible 
    cranial nerves: no gross deficits, CN II-XII intact, no
   dysarthria 
    abnormal movements: none noted
    frontal release: not assessed
  *Appearance: young appearing man wearing casual clothing,
injury of R eyelid is healing 
  Behavior: calm and cooperative
  *Mood and Affect: 'really good'/calm, euthymic
  *Thought process: linear, sequential and goal-oriented
  *Thought Content:  Does not endorse SI, HI, AVH
  *Judgment and Insight: poor/poor
  Cognition: 
    *Attention, *orientation, and executive function:  attended
well to psychiatric interview, oriented to self and situation  
    *Memory: intact to personal events both remote and recent 
    *Fund of knowledge: not formally assessed, appears average
    Calculations: not assessed
    Abstraction: not assessed 
    Visuospatial: not assessed 
    *Speech: normal tone, rate, prosody and volume
    *Language: fluent ___ 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___